US06077850
A solution of dichloromethane (200 mL), 4-aminobenzotrifluoride (32.0 g, 199 mmol) and triethylamine (40 g, 396 mmol) was cooled to 0° C. under a dry nitrogen atmosphere. Trimethylacetyl chloride (32.9 g, 273 mmol) was added drop-wise over 2 hours, maintaining the temperature below 10° C. After the addition, the contents were allowed to warm to room temperature for 2 hours. The reaction was washed with water (2×200 mL), saturated ammonium chloride solution (2×200 mL), dried over sodium sulfate and filtered. The solvent was removed in vacuo to afford a white solid, N-(4-trifluoromethylphenyl)-2,2-dimethylpropanamide (48.0 g, 98%): mp 157-159° C. 1H NMR (CDCl3 /300 MHz) 7.61 (ab, 4H, J=8.7, Δν=28.6 Hz), 7.47 (br s, 1H), 1.33 (s, 9H). ESHRMS m/z 246.1123 (M+H+, Calc'd 246.1106). Anal. Calc'd for C12H14F3NO: C, 58.77; H, 5.75; N, 5.71. Found: C, 58.28; H, 5.79; N, 5.65.

reactant | 4-aminobenzotrifluoride | 199 mmol, 32.0 g | NC1=CC=C(C=C1)C(F)(F)F | C7H6F3N
reactant | triethylamine | 396 mmol, 40 g | C(C)N(CC)CC | C6H15N
reactant | Trimethylacetyl chloride | 273 mmol, 32.9 g | CC(C(=O)Cl)(C)C | C5H9ClO
solvent | dichloromethane | 200 mL | ClCCl | CH2Cl2
product | N-(4-trifluoromethylphenyl)-2,2-dimethylpropanamide | 48.0 g, 98% | FC(C1=CC=C(C=C1)NC(C(C)(C)C)=O)(F)F | C12H14F3NO
